US04329347
6-[4-(1,2,4-Triazol-3-yl-mercapto)-butoxy]-3,4-dihydro-carbostyril
Prepared analogous to Example 122 from 6-(4-bromo-butoxy)-3,4-dihydro-carbostyril (m.p. 142°-147° C.) and 3-mercapto-1,2,4-triazole.

reactant | 6-(4-bromo-butoxy)-3,4-dihydro-carbostyril | BrCCCCOC=1C=C2CCC(NC2=CC1)=O | C13H16BrNO2
reactant | 3-mercapto-1,2,4-triazole | SC1=NNC=N1 | C2H3N3S
product | 6-[4-(1,2,4-Triazol-3-yl-mercapto)-butoxy]-3,4-dihydro-carbostyril | N1N=C(N=C1)SCCCCOC=1C=C2CCC(NC2=CC1)=O | C15H18N4O2S
